US04558043
A mixture of 15.3 g (0.1 mole) of 4-methyl-3-nitrophenol, 16.8 g (0.11 mole) of chloroacetaldehyde diethyl acetal, 20.7 g (0.15 mole) of ground potassium carbonate, 4.5 g (30 mmole) of sodium iodide and 100 ml of dimethylformamide is boiled under reflux for 12 hours. The whole is subsequently filtered with suction, the residue is washed with dimethylformamide and the solution is concentrated by evaporation in vacuo. Chromatography of the residue over silica gel (methylene chloride) and subsequent distillation of the pure fractions (105°-110°/6.10-2 torr) yields 2-(4-methyl-3-nitrophenoxy)-acetaldehyde diethyl acetal in the form of a yellowish oil.

reactant | 4-methyl-3-nitrophenol | 0.1 mole, 15.3 g | CC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
reactant | chloroacetaldehyde diethyl acetal | 0.11 mole, 16.8 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 30 mmole, 4.5 g | [I-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4-methyl-3-nitrophenoxy)-acetaldehyde diethyl acetal | C(C)OC(COC1=CC(=C(C=C1)C)[N+](=O)[O-])OCC | C13H19NO5
